US04847256
A mixture of 7.08 g of (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone (prepared as described in U.S. Pat. appliction Ser. No. 612,811, filed May 24, 1984), 8.20 g of malonaldehyde bis(dimethyl acetal) and 100 ml of glacial acetic acid was heated at reflux for 8 hours. The solvent was evaporated and the solid was worked up as described in Example 50 to give 4.92 g of 2-furanylpyrazolo[1,5-a]pyrimidin-3-yl-methanone, mp 222°-224° C.

reactant | (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone | 7.08 g | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
reactant | malonaldehyde bis(dimethyl acetal) | 8.20 g | COC(CC(OC)OC)OC | C7H16O4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-furanylpyrazolo[1,5-a]pyrimidin-3-yl-methanone | 4.92 g | O1C(=CC=C1)C1=NN2C(N=CC=C2)=C1C=O | C11H7N3O2
